US09259470B2
0.5M (4-Chloro-3-fluorophenyl)magnesium bromide (22.5 mL, 11.2 mmol) as a solution in THF was added dropwise to a cold (0° C.) solution of (R)-tert-butyl 2-(methoxy(methyl)carbamoyl)pyrrolidine-1-carboxylate (1.45 g, 5.61 mmol) in THF (25 mL) under N2, and the reaction was allowed to warm up to room temperature overnight. The next morning, the mixture was placed in an ice bath and carefully quenched with ice. The reaction mixture was concentrated. The residue was treated for 1 hour with a solution of 30% sodium potassium and then extracted with ethyl acetate (2×). The organic layer was dried, filtered and concentrated. The crude product was purified via column chromatography, eluting with hexanes/ethyl acetate (5:1) to give (R)-tert-butyl 2-(4-chloro-3-fluorobenzoyl)pyrrolidine-1-carboxylate (1.12 g, 61%). m/z (APCI-pos) (M+1)-Boc=228.1, 230.1.

reactant | (4-Chloro-3-fluorophenyl)magnesium bromide | 11.2 mmol, 0.5M, 22.5 mL | ClC1=C(C=C(C=C1)[Mg]Br)F
reactant | (R)-tert-butyl 2-(methoxy(methyl)carbamoyl)pyrrolidine-1-carboxylate | 5.61 mmol, 1.45 g | CON(C(=O)[C@@H]1N(CCC1)C(=O)OC(C)(C)C)C | C12H22N2O4
solvent | THF | C1CCOC1 | C4H8O
solvent | THF | 25 mL | C1CCOC1 | C4H8O
product | (R)-tert-butyl 2-(4-chloro-3-fluorobenzoyl)pyrrolidine-1-carboxylate | 1.12 g, 61% | ClC1=C(C=C(C(=O)[C@@H]2N(CCC2)C(=O)OC(C)(C)C)C=C1)F | C16H19ClFNO3
